US09340544B2
(4-Chloro-phenyl)-[2-(3-furan-2-yl-5-methyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-amine (Compound 9.18)
Was prepared according to Example 9 from (4-chloro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine and 1-(2-furyl)-1,3-butanedione.

reactant | (4-chloro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)NN)C | C12H12ClN7
reactant | 1-(2-furyl)-1,3-butanedione | O1C(=CC=C1)C(CC(C)=O)=O | C8H8O3
product | (4-Chloro-phenyl)-[2-(3-furan-2-yl-5-methyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)N1N=C(C=C1C)C=1OC=CC1)C | C20H16ClN7O
